data/oMe_Silver.jsonl
{"reaction_id": "NR-009_1-c2ccccc2C_2-CSCC_3-C","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(c2ccccc2C)(CSCC)C(=O)c1ccccc1OC(=O)C"],"products_smiles": ["CC(=O)C(c2ccccc2C)(CSCC)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](c2ccccc2C)(CSCC)C(=O)c1ccccc1OC(=O)C","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(C)C(c2ccccc2C)(CSCC)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(=O)C(c2ccccc2C)(CSCC)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=O)C(c2ccccc2C)(CSCC)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
{"reaction_id": "NR-002_1-c1ccc(C(F)(F)F)cc1_2-C1CCCCC1","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)CC1CCCCC1","C(=O)(c1ccc(C(F)(F)F)cc1)CC1CCCCC1"],"products_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(C1CCCCC1)C(O)(CC1CCCCC1)c1ccc(C(F)(F)F)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=CC1CCCCC1)(O)c1ccc(C(F)(F)F)cc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)CC1CCCCC1","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)C(C1CCCCC1)C(O)(CC1CCCCC1)c1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)C(C1CCCCC1)C(O)(CC1CCCCC1)c1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
